US09102637B2
(a) 5-amino-2-(naphthalen-1-ylamino)thiazole-4-carboxamide
To a suspension of 2-amino-2-cyanoacetamide (0.25 g, 2.53 mmol) in EtOAc (8 mL), was added 1-isothiocyanatonaphthalene (0.467 g, 2.53 mmol), and the mixture was refluxed for 30 min. The solvent was evaporated under reduced pressure, and the resulting crude residue was purified by silica gel column chromatography eluted with 2% MeOH in DCM to give 0.35 g (48% yield) of the titled compound.

reactant | 2-amino-2-cyanoacetamide | 2.53 mmol, 0.25 g | NC(C(=O)N)C#N | C3H5N3O
reactant | 1-isothiocyanatonaphthalene | 2.53 mmol, 0.467 g | N(=C=S)C1=CC=CC2=CC=CC=C12 | C11H7NS
solvent | EtOAc | 8 mL | CCOC(=O)C | C4H8O2
product | 5-amino-2-(naphthalen-1-ylamino)thiazole-4-carboxamide | 0.35 g, 48% yield | NC1=C(N=C(S1)NC1=CC=CC2=CC=CC=C12)C(=O)N | C14H12N4OS
